US09301525B2
N-[1-((6-bromopyridin-3-yl)methyl)pyridin-2(1H)-ylidene]-2,2,2-trifluoroacetamide (Compound P231)
70 mg (0.28 mmol) of the 2-bromo-5-bromomethylpyridine obtained by the aforementioned method was dissolved in 10 ml of anhydrous acetonitrile, 54 mg (0.28 mmol) of 2,2,2-trifluoro-N-(pyridin-2(1H)-ylidene)acetoamide synthesized by the method described in (1) of Synthetic Example P1 and 46 mg (0.34 mmol) of potassium carbonate were added thereto in sequence, and the resulting mixture was heated and refluxed for 6 hours. After the reaction was completed, the reaction solution was returned to room temperature to filter insoluble materials, and the filtrate was concentrated under reduced pressure. Diethyl ether was added thereto to precipitate a solid, and thus the solid was collected, washed with diethyl ether, and then dried under reduced pressure in a desiccator to obtain the subject material. Amount obtained 81 mg (yield 82%).

reactant | 2-bromo-5-bromomethylpyridine | 0.28 mmol, 70 mg | BrC1=NC=C(C=C1)CBr | C6H5Br2N
reactant | 2,2,2-trifluoro-N-(pyridin-2(1H)-ylidene)acetoamide | 0.28 mmol, 54 mg | FC(C(=O)N=C1NC=CC=C1)(F)F | C7H5F3N2O
reactant | potassium carbonate | 0.34 mmol, 46 mg | C([O-])([O-])=O.[K+].[K+]
solvent | acetonitrile | 10 ml | C(C)#N | C2H3N
product | N-[1-((6-bromopyridin-3-yl)methyl)pyridin-2(1H)-ylidene]-2,2,2-trifluoroacetamide | BrC1=CC=C(C=N1)CN1C(C=CC=C1)=NC(C(F)(F)F)=O | C13H9BrF3N3O
